US06949642B2
Preparation of (R)-2,3,4,5-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile, X
In a 500 mL flask was charged (R)-2,3,4,5-tetrahydro-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile (20.0 g, 1 eq.), imidazole-4-carboxaldehyde (5.2 g, 1.1 eq.), and CH2Cl2 (80 mL) at room temperature. Cool to 0-5° C. Add trichloroacetic acid (32 g, 4 eq.) and trichloroacetic acid anhydride (12.2 mL, 1.36 eq.) while keeping the temperature below 20° C. Stir the mixture for 30 min at 0-5° C. Add Triethylsilane (11.6 mL, 1.5 eq.). Agitate the mixture at 20-25° C. for 26 h until the reaction is complete. Add CH2Cl2 (80 mL), then cool to 0° C. Adjust the pH to 8-9 with 10% NaOH. Separate the two phases. Wash the organic phase with H2O (50 mL). Remove most of the solvents, and add EtOH (150 mL); and heat up to reflux and stir at reflux for 10 min. Cool to room temperature in a period of 60 min. Crystals appeared at 65° C. Stir at room temperature for 2 h. Filter and wash the crystals with EtOH (150 mL). Dry at 40° C. in vacuum oven over night to give the product (20.4 g, 85% yield) as a white solid.

reactant | (R)-2,3,4,5-tetrahydro-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile | 20.0 g, 1 eq. | C1(=CC=CC=C1)C[C@@H]1CNC2=C(CN1S(=O)(=O)C=1SC=CC1)C=C(C=C2)C#N | C21H19N3O2S2
reactant | imidazole-4-carboxaldehyde | 5.2 g, 1.1 eq. | N1C=NC(=C1)C=O | C4H4N2O
reactant | trichloroacetic acid | 32 g, 4 eq. | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | trichloroacetic acid anhydride | 12.2 mL, 1.36 eq. | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | Triethylsilane | 11.6 mL, 1.5 eq. | C(C)[SiH](CC)CC | C6H16Si
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (R)-2,3,4,5-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile | 20.4 g, 85% yield | N1C=NC(=C1)CN1C[C@H](N(CC2=C1C=CC(=C2)C#N)S(=O)(=O)C=2SC=CC2)CC2=CC=CC=C2 | C25H23N5O2S2
